US05428041
N-[4,4-bis(trifluoromethyl)-2-(4-methylphenyl)-4,5-dihydro-1H-imidazol-5-ylidene]-4-methylbenzamide
To a solution of α,α-bis(trifluoromethyl)-4,5-bis(4-methylphenyl)-1-methyl-1H-imidazol-2-methanamine (1.0 g, 2.3 mmole) in chloroform (10 mL) was added portionwise, m-chloroperbenzoic acid (0.40 g, 2.3 mmole). The reaction mixture was refluxed under nitrogen for two hours. The solution was cooled to room temperature and poured into saturated sodium bicarbonate (100 mL). The organic layer was washed successively with saturated sodium bicarbonate solution. 10% sodium sulfite solution, water, and saturated sodium chloride solution, dried over magnesium sulfate and evaporated under vacuum. The residue (75% benzamide and 25% ester analyzed by HPLC with a (DL)-phenylglycine column eluted with 10% isopropanol-hexane) was purified by HPLC on a silica sorbax column which was eluted with dichloromethane to give the title compound (40 mg, 4%) as a semisolid: MS m/e 442 (M+ +H); 1H NMR (CDCl3 /TMS) δ 3.00(s,6H,CH3), 3.13(s,3H,NCH3), 7.27-7.37(m,4H,Harom), 7.57(d,J= 7 Hz,2H,Harom), 7.90(d,J=7 Hz,2H,Harom).

reactant | α,α-bis(trifluoromethyl)-4,5-bis(4-methylphenyl)-1-methyl-1H-imidazol-2-methanamine | 2.3 mmole, 1.0 g | FC(C(N)(C=1N(C(=C(N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C)C(F)(F)F)(F)F | C21H19F6N3
reactant | m-chloroperbenzoic acid | 2.3 mmole, 0.40 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4,4-bis(trifluoromethyl)-2-(4-methylphenyl)-4,5-dihydro-1H-imidazol-5-ylidene]-4-methylbenzamide | 40 mg, 4% | FC(C1(N=C(NC1=NC(C1=CC=C(C=C1)C)=O)C1=CC=C(C=C1)C)C(F)(F)F)(F)F | C20H15F6N3O
